US07893056B2
To a solution of crude [(cis)-1-(phenylmethyl)-3,4-pyrrolidinediyl]dimethanol (2.5 g) in MeOH (50 mL) was added conc HCl (0.2 mL) followed by Pearlmans catalyst (700 mg). The resulting suspension was hydrogenated for 48 hours at 50 psi on a Parr shaker, after which time a further 700 mg of the catalyst was added. Hydrogenation for another 72 hours at 50 psi resulted in completion of the reaction. Removal of the catalyst by filtration and evaporation of the solvents under reduced pressure yielded (cis)-3,4-pyrrolidinediyldimethanol (970 mg, 7.4 mmol). LCMS: (M+H)+: Not detected.

reactant | [(cis)-1-(phenylmethyl)-3,4-pyrrolidinediyl]dimethanol | 2.5 g | C1(=CC=CC=C1)CN1C[C@H]([C@H](C1)CO)CO | C13H19NO2
reactant | HCl | 0.2 mL | Cl | ClH
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pearlmans catalyst | 700 mg | [OH-].[OH-].[Pd+2]
product | (cis)-3,4-pyrrolidinediyldimethanol | 7.4 mmol, 970 mg | N1C[C@H]([C@H](C1)CO)CO | C6H13NO2
